US08084448B2
E. 5-[2-Benzyloxy-4-(6-benzyloxypyridin-2-ylmethyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
In a pressure vessel, zinc powder (429 mg, 6.6 mmol) is dried by heating under vacuum, then cooled, placed under N2, and slurried in N,N-dimethylacetamide (0.75 mL). To the slurry is added 1,2-dibromoethane (0.044 mL, 0.51 mmol) and the mixture is heated until boiling. The mixture is allowed to cool, and TMSCl (65 mL, 0.51 mmol) is added, followed by stirring for 30 min to produce a green solution. To the activated zinc is added 5-(2-benzyloxy-4-iodomethylphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (600 mg, 1.1 mmol) in N,N-dimethylacetamide (1 mL) over 30 min. The organozinc solution is filtered and degassed with N2, then to it is added Pd2(dba)3 (50 mg, 0.055 mmol) and 2-di-t-butylphosphino)biphenyl (66 mg, 0.22 mmol), followed by degassed 2-benzyloxy-6-bromopyridine (350 mg, 1.3 mmol) in N,N-dimethylacetamide. The vessel is sealed and the reaction is stirred at 80° C. for 18 h. The reaction is allowed to cool to RT then is filtered through Celite. The resulting solution is diluted with EtOAc (10 mL) and washed with water and brine, then dried over MgSO4. The solvent is removed under reduced pressure and the crude residue is purified by silica gel chromatography using a gradient of 0-75% EtOAc/hexane to afford the title compound as a colorless oil: (M+H)+=616

reactant | 1,2-dibromoethane | 0.51 mmol, 0.044 mL | BrCCBr | C2H4Br2
reactant | TMSCl | 0.51 mmol, 65 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 5-(2-benzyloxy-4-iodomethylphenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 1.1 mmol, 600 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CI)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C21H27IN2O4SSi
reactant | biphenyl | 0.22 mmol, 66 mg | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | 2-benzyloxy-6-bromopyridine | 1.3 mmol, 350 mg | C(C1=CC=CC=C1)OC1=NC(=CC=C1)Br | C12H10BrNO
solvent | N,N-dimethylacetamide | 0.75 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
catalyst | zinc | 6.6 mmol, 429 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.055 mmol, 50 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-[2-Benzyloxy-4-(6-benzyloxypyridin-2-ylmethyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=NC(=CC=C1)OCC1=CC=CC=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C33H37N3O5SSi
